*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF250ARA221MHA0G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXF250ARA221MHA0G_20deg-C 1 2

C1 4 2 1.50e-04
C2 5 2 2.06e-05
C3 6 2 1.51e-05
R1 3 4 9.32e-03
R2 4 5 1.49e-01
R3 5 6 2.34e+00
L1 1 3 3.70e-09

.ENDS
*$
